US07625887B2
To a solution of 2-chloro-4-(3-fluorophenyl)nicotinic acid (8.37 g) in tetrahydrofuran (70 ml) was added thionyl chloride (11.9 g), and the mixture was heated under reflux for 2.5 hrs. The reaction mixture was concentrated and the obtained residue was dissolved in tetrahydrofuran (50 ml). This solution was added dropwise to an ice-cooled aqueous sodium borohydride (4.58 g) solution, and the mixture was stirred at room temperature for 3 hrs. The reaction mixture was extracted with ethyl acetate, and the organic layer was washed with saturated aqueous sodium hydrogencarbonate solution and saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was evaporated and the residue was purified by silica gel column chromatography to give [2-chloro-4-(3-fluorophenyl)pyridin-3-yl]methanol (3.07 g) as a colorless oil.

reactant | 2-chloro-4-(3-fluorophenyl)nicotinic acid | 8.37 g | ClC1=C(C(=O)O)C(=CC=N1)C1=CC(=CC=C1)F | C12H7ClFNO2
reactant | thionyl chloride | 11.9 g | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | [2-chloro-4-(3-fluorophenyl)pyridin-3-yl]methanol | 3.07 g | ClC1=NC=CC(=C1CO)C1=CC(=CC=C1)F | C12H9ClFNO
